US08802713B2
Then, 1.0 g of ethyl-3-ethoxy-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}pyrazole-4-carboxylate was dissolved in 30 mL of dichloromethane, and 3.08 g of boron tribromide was added under cooling with ice, followed by stirring at room temperature for 12 hours. Then, 10 mL of a saturated aqueous solution of citric acid was added, extraction with ethyl acetate was carried out, the organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:1) to obtain 0.45 g of ethyl-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxypyrazole-4-carboxylate.

reactant | ethyl-3-ethoxy-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}pyrazole-4-carboxylate | 1.0 g | C(C)OC(=O)C=1C(=NN(C1)C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OCC | C17H18F4N2O3S
reactant | boron tribromide | 3.08 g | B(Br)(Br)Br | BBr3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | ethyl-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxypyrazole-4-carboxylate | 0.45 g | C(C)OC(=O)C=1C(=NN(C1)C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)O | C15H14F4N2O3S
